US04578473
1-Cyclopropyl-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
To a solution of 1.0 g (3.4 mmole) of methyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 25 ml dichloromethane was added 0.6 ml (0.8 g, 4.2 mmole) of iodotrimethylsilane while stirring at room temperature under a blanket of nitrogen. The reaction was warmed to reflux and stirred overnight. An additional 0.23 ml (1.6 mmole) of iodotrimethylsilane was added and the solution was refluxed for another two hours, cooled to room temperature, and concentrated. The residue was taken up in 20 ml of acetonitrile. To this solution was added a mixture of 2.2 g (8.5 mmole) of 2,5-diazabicyclo[2.2.1]heptane, dihydrobromide, 2.7 g (17.9 mmole) 1,8-diazobicyclo[5.4.0]undec-7-ene and 20 ml acetonitrile. The reaction was refluxed for 2.5 hours then cooled to room temperature. The formed precipitate was filtered, washed with acetonitrile and ethyl ether, yielding 1.13 g (92%) of the title compound, mp 288°-290° C.

reactant | methyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 3.4 mmole, 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OC | C14H10F3NO3
reactant | iodotrimethylsilane | 4.2 mmole, 0.6 ml, 0.8 g | I[Si](C)(C)C | C3H9ISi
reactant | iodotrimethylsilane | 1.6 mmole, 0.23 ml | I[Si](C)(C)C | C3H9ISi
reactant | 2,5-diazabicyclo[2.2.1]heptane, dihydrobromide | 8.5 mmole, 2.2 g | Br.Br.C12NCC(NC1)C2
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-Cyclopropyl-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.13 g, 92% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1C2CNC(C1)C2)F)=O)C(=O)O | C18H17F2N3O3
